US08614328B2
To a solution of triphenylphosphine (630 mg, 2.4 mmol) and furan-2-yl-methanol (0.17 mL, 2.0 mmol) in THF (10 mL) was added a solution of DEAD (0.38 mL, 2.4 mmol) in THF (0.6 mL) at 0° C. After 5 min, 4-hydroxy-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (550 mg, 2.0 mmol) was added to the mixture. The mixture was allowed to warm to room temperature and kept for 4 h. The solvent was removed in vacuo, and the residue was purified by column chromatography (Silca Gel) to give an oil. The oil was slurried in methanol (10 mL) for 3 h to give a suspension. The suspension was filtered and washed with methanol (20 mL) to give 2-(2,6-dioxo-piperidin-3-yl)-4-(furan-2-ylmethoxy)-isoindole-1,3-dione as a yellow solid (310 mg, 44% yield): mp, 184-186° C.; 1H NMR (DMSO-d6) δ 1.99-2.04 (m, 1H, CHH), 2.42-2.61 (m, 2H, CH2), 2.80-2.95 (m, 1H, CHH), 5.07 (dd, J=5, 13 Hz, 1H, NCH), 5.35 (s, 2H, CH2), 6.49 (dd. J=2, 3 Hz, 1H, Ar), 6.68 (d. J=8 Hz, 1H, Ar), 7.47 (d, J=7 Hz, 1H, Ar), 7.68-7.71 (m, 2H, Ar), 7.83 (t J=8 Hz, 1H, Ar), 11.10 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.96, 30.93, 48.77, 62.55, 110.72, 111.38, 115.72, 116.64, 120.35, 133.35, 136.89, 143.99, 149.15, 155.12, 165.21, 166.73, 169.88, 172.76; Anal Calcd for C18H14N2O6+0.1H2O: C, 60.71; H, 4.02; N, 7.87; H2O, 0.51. Found: C, 60.47; H, 3.97; N, 7.73; H2O, 0.38.

reactant | triphenylphosphine | 2.4 mmol, 630 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | furan-2-yl-methanol | 2.0 mmol, 0.17 mL | O1C(=CC=C1)CO | C5H6O2
reactant | DEAD | 2.4 mmol, 0.38 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-hydroxy-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2.0 mmol, 550 mg | OC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H10N2O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 2-(2,6-dioxo-piperidin-3-yl)-4-(furan-2-ylmethoxy)-isoindole-1,3-dione | 310 mg, 44% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)OCC=1OC=CC1)=O)=O | C18H14N2O6
